US07115645B2
b) 5-Methoxy-2-nitrophenyldiphenylamine
A solution of 2 g of 3-fluoro-4-nitroanisole in 16 ml of aniline was stirred for 24 hours at 140° C. After cooling, it was taken up in ethyl acetate and extracted with 2N aqueous hydrochloric acid. The organic phase was dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was chromatographed on silica gel.

reactant | 3-fluoro-4-nitroanisole | 2 g | FC=1C=C(C=CC1[N+](=O)[O-])OC | C7H6FNO3
reactant | aniline | 16 ml | NC1=CC=CC=C1 | C6H7N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Methoxy-2-nitrophenyldiphenylamine | COC=1C=CC(=C(C1)N(C1=CC=CC=C1)C1=CC=CC=C1)[N+](=O)[O-] | C19H16N2O3
